US05981542
1.b. 8-formyloxymethyl-7-propionylindolizino [1,2-b] quinoline-9 (11H)-one
A solution of sodium Metaperiodate (14 g, 65 mmol) in water (140 ml) is added drop-wise to a suspension of 4-ethyl-3,4-dihydroxy-1H-pyrano [3',4': 6,7] indolizino [1,2-b] quinoline-14(4H,12H)-one (13.4 g, 38 mmol) in glacial acetic acid (720 ml) and the resulting solution is agitated for one hour at ambient temperature. The reaction mixture is then poured into a mixture of ice/water (650 ml) and the resulting suspension is agitated for one half-hour then filtered and washed successively with water, isopropyl alcohol, and etherdiethyl alcohol, which, after drying under reduced pressure, the sought compound (11.5 g) in the form of a pale yellow solid, m.p. >200° C. (d).

reactant | sodium Metaperiodate | 65 mmol, 14 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | 4-ethyl-3,4-dihydroxy-1H-pyrano [3',4': 6,7] indolizino [1,2-b] quinoline-14(4H,12H)-one | 38 mmol, 13.4 g | C(C)C1(C(OCC=2C(N3CC=4C(=NC=5C=CC=CC5C4)C3=CC21)=O)O)O | C20H18N2O4
solvent | water | 140 ml | O | H2O
solvent | acetic acid | 720 ml | C(C)(=O)O | C2H4O2
product | 8-formyloxymethyl-7-propionylindolizino [1,2-b] quinoline-9 (11H)-one | C(=O)OCC=1C(N2CC=3C(=NC4=CC=CC=C4C3)C2=CC1C(CC)=O)=O | C20H16N2O4
